US04299834
8-(2,4-Dimethoxy-phenyl)-purine
A mixture of 5.5 g of 4,5-diaminopyrimidine and 10.9 g of 2,4-dimethoxy-benzoic acid was triturated in a mortar. The mixture was added to 100 ml of phosphorus oxychloride and refluxed for one hour. The phosphorus oxychloride was decomposed under stirring into water, and the solution obtained was neutralized with ammonia after filtration. The precipitated product was recrystallized from water and ethanol/cyclohexane (volume ratio of 1:3).

reactant | 4,5-diaminopyrimidine | 5.5 g | NC1=NC=NC=C1N | C4H6N4
reactant | 2,4-dimethoxy-benzoic acid | 10.9 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | ammonia | N | H3N
product | 8-(2,4-Dimethoxy-phenyl)-purine | COC1=C(C=CC(=C1)OC)C1=NC2=NC=NC=C2N1 | C13H12N4O2
